US06762180B1
(1) N-(2-dimethylaminoethyl)-N-methyl-4-nitroaniline
Prepared from 1-fluoro-4-nitrobenzene and 1-dimethylamino-2-methylamino-ethane

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-dimethylamino-2-methylamino-ethane | CN(CCNC)C | C5H14N2
product | N-(2-dimethylaminoethyl)-N-methyl-4-nitroaniline | CN(CCN(C1=CC=C(C=C1)[N+](=O)[O-])C)C | C11H17N3O2
